US06294558B1
1-(4-Bromo3-methylphenyl)-2-(3-fluorophenyl)ethanone. (step 1)
The title compound was prepared according to the procedure of step 3 in the Example 169 using 3-fluorobenzyl bromide and 4-bromo-3-methylbenzoyl chloride (Cignarella, G.; Curzu, M. M.; Grella, G.; Loriga, M.; Anania, V.; Desole, M. S.; J. Farmaco. Ed. Sci., 1983, 38, 187-198.).

reactant | 3-fluorobenzyl bromide | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | 4-bromo-3-methylbenzoyl chloride | BrC1=C(C=C(C(=O)Cl)C=C1)C | C8H6BrClO
product | 1-(4-Bromo3-methylphenyl)-2-(3-fluorophenyl)ethanone | BrC1=C(C=C(C=C1)C(CC1=CC(=CC=C1)F)=O)C | C15H12BrFO
